US07125896B2
To a solution of acetonitrile (1.35 ml) in tetrahydrofuran (80 ml), cooled to 5° C., was added sodium hydride (0.94 g, 60% dispersion in oil). The mixture was stirred for 30 minutes before the addition of a solution of methyl 4-(morpholin-4-ylmethyl)benzoate (5.53 g) in tetrahydrofuran (20 ml). The resulting mixture was heated to 70° C. for 5 h. The mixture was cooled, quenched with saturated ammonium chloride (20 ml) and extracted with ethyl acetate. The organic extracts were dried (MgSO4) and evaporated to give a gum which was purified by column chromatography eluting with a 20–100% ethyl acetate/iso-hexane gradient to give 3-[4-(morpholin-4-ylmethyl)phenyl]-3-oxopropanenitrile (0.97 g).

reactant | acetonitrile | 1.35 ml | C(C)#N | C2H3N
reactant | sodium hydride | 0.94 g | [H-].[Na+]
reactant | methyl 4-(morpholin-4-ylmethyl)benzoate | 5.53 g | N1(CCOCC1)CC1=CC=C(C(=O)OC)C=C1 | C13H17NO3
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[4-(morpholin-4-ylmethyl)phenyl]-3-oxopropanenitrile | 0.97 g | N1(CCOCC1)CC1=CC=C(C=C1)C(CC#N)=O | C14H16N2O2
